US07759376B2
Step 1. Preparation of methyl 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-carboxylate
As shown in Reaction Scheme 5, to a mixture of N-(4-bromo-2-fluorophenyl)-6-fluoro-1,3-benzothiazol-2-amine (1.00 g, 2.93 mmol) and 4-(methoxycarbonylphenyl)boronic acid (0.79 g, 4.40 mmol) in toluene (10 mL) was added Na2CO3 (1.40 g, 13.2 mmol), 1,1′-bis(diphenylphosphino) ferrocenepalladium(II) chloride complex with dichloromethane (0.05 g, 0.06 mmol), 1,4-dioxane (5 mL), and water (5 mL). This mixture was heated at reflux overnight. Upon cooling to rt, the reaction mixture was filtered, and the solid was washed with water (2×30 mL) and methanol (2×30 mL). The solid was recrystallized from acetone/MeOH (2:1). This yielded 0.641 g (55%) of the desired product as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 3.82 (s, 3H), 7.20 (t, 1H), 7.59-8.02 (m, 8H), 8.70 (t, 1H), 10.50 (bs, 1H).

reactant | N-(4-bromo-2-fluorophenyl)-6-fluoro-1,3-benzothiazol-2-amine | 2.93 mmol, 1.00 g | BrC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)F | C13H7BrF2N2S
reactant | Na2CO3 | 13.2 mmol, 1.40 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 0.06 mmol, 0.05 g | ClCCl | CH2Cl2
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 mL | O | H2O
product | methyl 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-carboxylate | FC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)C2=CC=C(C=C2)C(=O)OC | C21H14F2N2O2S
